US05723497
Preparation of 1-[N-(2-hydroxyethyl)-N-methylamino)-2-octadecanol (IIc-2):
A 300-ml flask equipped with a stirrer was charged with 26.85 g (0.1 mol) of 1,2-epoxyoctadecane, 7.51 g (0.1 mol) of N-methylethanolamine and 50 ml of ethanol, and the contents were stirred at 80° C. for 18 hours. After the solvent was distilled off under reduced pressure, the resultant residue was purified by column chromatography on silica gel, thereby obtaining 23.0 g (yield: 67%) of the title compound (IIc-2).

reactant | 1,2-epoxyoctadecane | 0.1 mol, 26.85 g | O1CC1CCCCCCCCCCCCCCCC | C18H36O
reactant | N-methylethanolamine | 0.1 mol, 7.51 g | CNCCO | C3H9NO
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 1-[N-(2-hydroxyethyl)-N-methylamino)-2-octadecanol | 23.0 g, yield: 67% | OCCN(C)CC(CCCCCCCCCCCCCCCC)O | C21H45NO2
